US08084448B2
C. 4-Benzenesulfonylbutan-1-ol
To a mixture of acetic acid 4-benzenesulfonylbutylester (6.5 g, 25.3 mmol) in MeOH (30 mL) at RT is added NaOH (1.5 g, 37.5 mmol) in water (5 mL). The mixture is stirred at RT for 1 h then the solvent is removed under reduced pressure. To the residue is added 1N HCl (40 mL) then the mixture is extracted with EtOAc. The organic phase is dried over MgSO4 and the solvent is removed under reduced pressure to afford the title compound as a yellow oil.

reactant | acetic acid 4-benzenesulfonylbutylester | 25.3 mmol, 6.5 g | C1(=CC=CC=C1)S(=O)(=O)CCCCOC(C)=O | C12H16O4S
reactant | NaOH | 37.5 mmol, 1.5 g | [OH-].[Na+]
solvent | MeOH | 30 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 4-Benzenesulfonylbutan-1-ol | C1(=CC=CC=C1)S(=O)(=O)CCCCO | C10H14O3S
